US05733922
Initially, 0.65 g of 2-dimethylaminobenzylchloride hydrochloride was added to a solution of 0.7 g of 2-benzylthio-5,5-dimethylimidazolin-4-thione in 20 mL of ethanol (EtOH). The reaction mixture was stirred at the room temperature for one hour, and concentrated in vacuo. The residue was treated following the procedure used in Example 62, and purified by column chromatography (CHCl3). Recrystallization from diethyl ether-n-hexane gave 2-benzylthio-4-(2-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole in the form of a needle-like crystal. The yield of this compound was 0.75 g with a yield ratio of 72.2%, and the melting point was 91°-92° C.

reactant | 2-dimethylaminobenzylchloride hydrochloride | 0.65 g | Cl.CN(C1=C(CCl)C=CC=C1)C
reactant | 2-benzylthio-5,5-dimethylimidazolin-4-thione | 0.7 g | C(C1=CC=CC=C1)SC=1NC(C(N1)=S)(C)C | C12H14N2S2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-benzylthio-4-(2-dimethylaminobenzylthio)-5,5-dimethyl-5H-imidazole | C(C1=CC=CC=C1)SC1=NC(C(=N1)SCC1=C(C=CC=C1)N(C)C)(C)C | C21H25N3S2
